US03994936
tris-(trimethyl siloxy)-vanadium oxide is reacted with tri-(p-bromophenyl)-silanol and cyclohexanol in a mol ratio of 1:2:1 parts by volume to produce bis-[tri-(p-bromophenyl)-siloxy]-cyclohexyloxy-vanadium oxide [mol peak = 1184 ref. to79Br]; and

reactant | tris-(trimethyl siloxy)-vanadium oxide | [O-2].C[Si](O[V+2](O[Si](C)(C)C)O[Si](C)(C)C)(C)C
reactant | tri-(p-bromophenyl)-silanol | BrC1=CC=C(C=C1)[Si](O)(C1=CC=C(C=C1)Br)C1=CC=C(C=C1)Br | C18H13Br3OSi
reactant | cyclohexanol | C1(CCCCC1)O | C6H12O
product | bis-[tri-(p-bromophenyl)-siloxy]-cyclohexyloxy-vanadium oxide | [O-2].BrC1=CC=C(C=C1)[Si](O[V+2](OC1CCCCC1)O[Si](C1=CC=C(C=C1)Br)(C1=CC=C(C=C1)Br)C1=CC=C(C=C1)Br)(C1=CC=C(C=C1)Br)C1=CC=C(C=C1)Br | InChI=1S/2C18H12Br3OSi.C6H11O.O.V/c2*19-13-1-7-16(8-2-13)23(22,17-9-3-14(20)4-10-17)18-11-5-15(21)6-12-18;7-6-4-2-1-3-5-6;;/h2*1-12H;6H,1-5H2;;/q3*-1;-2;+5
